* C:\Users\navey\Documents\Git\electrical-G6-BMS\master_rev1\LTSpice_Optocoupler\Draft1.asc
XU1 N004 N005 N001 N006 PC817 Igain=1m
V1 N004 0 PULSE(0 5 0 0 0 0.5m 1m)
V2 N001 0 12
R1 N005 0 220R
R2 N007 0 1k
C1 N007 0 10p
D1 N001 N002 D
R3 N003 N002 1k
M1 N003 N007 0 0 FDMS3622SQ2
D2 N007 0 SMBJ24CA
R4 N007 N006 320R
D3 0 N003 TFZV12B
.model D D
.lib C:\Users\navey\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\navey\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 5m
.lib PC817.sub
.backanno
.end
